US05686618
3-Amino-2-chloro-4-phenylpyridine
adjusting the pH of the aqueous phase to between 3.5 and 5 by the addition of a base, and isolating the 3-amino-2-chloro-4-methyl-pyridine so produced by extraction into methylene chloride, followed by evaporation of the methylene chloride.

reactant | 3-amino-2-chloro-4-methyl-pyridine | NC=1C(=NC=CC1C)Cl | C6H7ClN2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Amino-2-chloro-4-phenylpyridine | NC=1C(=NC=CC1C1=CC=CC=C1)Cl | C11H9ClN2
